US06028195
(b) 4,5-Dimethyl-2-hydroxyaniline
To 4,5-dimethyl-2-nitrophenol(11.7 g, 0.07 mol), tetrahydrofuran(100 ml) and ethanol(40 ml) were added, and 10% palladium/activated carbon(0.57 g) was added slowly, and then the mixture was hydrogenated for 5 hours. The reaction mixture was concentrated and chromatographed by the same way above to obtain the titled compound.

reactant | 4,5-dimethyl-2-nitrophenol | 0.07 mol, 11.7 g | CC1=CC(=C(C=C1C)O)[N+](=O)[O-] | C8H9NO3
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium | 0.57 g | [Pd] | Pd
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4,5-Dimethyl-2-hydroxyaniline | yield: 77% | CC1=CC(=C(N)C=C1C)O | C8H11NO
